US05852019
(1) 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(4-methoxyphenyl)-1-piperazinyl]-1-propanone hydrochloride
1.0 g of 1-(2-pyrimidinyl)-4-acetyl-5-methyl-pyrazole was dissolved in 50 ml of ethanol. After adding 1.3 g of 1-(4-methoxyphenyl)piperazine dihydrochloride and 0.8 g of paraformaldehyde, the mixture was heated under reflux for 24 hours. Further, 0.8 g of paraformaldehyde was added and the resulting mixture was heated under reflux for additional 48 hours. Then the reaction mixture was concentrated and neutralized by adding a saturated aqueous solution of sodium hydrogencarbonate. After extracting with chloroform, the extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue thus obtained was purified by silica gel column chromatography (chloroform:methanol=50:1), converted into hydrochloride by adding a 1N hydrochloric acid/ethanol solution and then recrystallized from ethanol. Thus 1.1 g of the title compound was obtained in the form of a pale yellow powder.

reactant | 1-(2-pyrimidinyl)-4-acetyl-5-methyl-pyrazole | 1.0 g | N1=C(N=CC=C1)N1N=CC(=C1C)C(C)=O | C10H10N4O
reactant | 1-(4-methoxyphenyl)piperazine dihydrochloride | 1.3 g | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | paraformaldehyde | 0.8 g | C=O | CH2O
reactant | paraformaldehyde | 0.8 g | C=O | CH2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(4-methoxyphenyl)-1-piperazinyl]-1-propanone hydrochloride | 1.1 g | Cl.CC1=C(C=NN1C1=NC=CC=N1)C(CCN1CCN(CC1)C1=CC=C(C=C1)OC)=O | InChI=1S/C22H26N6O2.ClH/c1-17-20(16-25-28(17)22-23-9-3-10-24-22)21(29)8-11-26-12-14-27(15-13-26)18-4-6-19(30-2)7-5-18;/h3-7,9-10,16H,8,11-15H2,1-2H3;1H
